US07781436B2
2-{6-Chloro-3-[4-(2-trifluoromethyl-phenyl)-piperidine-1-carbonyl]-indol-1-yl}-1-piperazin-1-yl-ethanone hydrochloride
Analogous to general procedure I, the coupling of {6-chloro-3-[4-(2-trifluoromethyl-phenyl)-piperidine-1-carbonyl]-indol-1-yl}-acetic acid (prepared herein) with (commercially available) piperazine-1-carboxylic acid tert-butyl ester gave, after treatment with HCl, the title compound.

reactant | {6-chloro-3-[4-(2-trifluoromethyl-phenyl)-piperidine-1-carbonyl]-indol-1-yl}-acetic acid | ClC1=CC=C2C(=CN(C2=C1)CC(=O)O)C(=O)N1CCC(CC1)C1=C(C=CC=C1)C(F)(F)F | C23H20ClF3N2O3
reactant | piperazine-1-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1CCNCC1 | C9H18N2O2
reactant | HCl | Cl | ClH
product | 2-{6-Chloro-3-[4-(2-trifluoromethyl-phenyl)-piperidine-1-carbonyl]-indol-1-yl}-1-piperazin-1-yl-ethanone hydrochloride | Cl.ClC1=CC=C2C(=CN(C2=C1)CC(=O)N1CCNCC1)C(=O)N1CCC(CC1)C1=C(C=CC=C1)C(F)(F)F | InChI=1S/C27H28ClF3N4O2.ClH/c28-19-5-6-21-22(16-35(24(21)15-19)17-25(36)33-13-9-32-10-14-33)26(37)34-11-7-18(8-12-34)20-3-1-2-4-23(20)27(29,30)31;/h1-6,15-16,18,32H,7-14,17H2;1H
